US06368608B1
(b) Preparation of N-ethyl-4-iodobenzamide:
90 ml (45 mmol) of a 0.5N solution of ethylamine in THF were introduced into a round-bottomed flask and a solution of 4 g (15 mmol) of 4-iodobenzoyl chloride in 20 ml of dichloromethane was added dropwise. Stirring was carried out at room temperature for one hour and the reaction mixture was poured into water and extracted with ethyl ether. The organic phase was separated by settling, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a silica column eluted with dichloromethane. After evaporating the solvents, 3.41 g (82%) of the expected amide was recovered.

reactant | ethylamine | C(C)N | C2H7N
reactant | 4-iodobenzoyl chloride | 15 mmol, 4 g | IC1=CC=C(C(=O)Cl)C=C1 | C7H4ClIO
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-ethyl-4-iodobenzamide | C(C)NC(C1=CC=C(C=C1)I)=O | C9H10INO
